US04976889
114 g of 4-(N-phenylethylamino)-2,2,6,6-tetramethylpiperidine and 41.3 g of tetrabutyl orthotitanate in 220 ml of ethyl formate were refluxed for 14.5 hours. After the volatile constituents had been distilled off at 140° C./1 mmHg, the solidified residue was recrystallized from petroleum ether. 4-(N-phenylethyl-N-formylamino)-2,2,6,6-tetramethylpiperidine of melting point 86° C. was isolated.

reactant | 4-(N-phenylethylamino)-2,2,6,6-tetramethylpiperidine | 114 g | C1(=CC=CC=C1)CCNC1CC(NC(C1)(C)C)(C)C | C17H28N2
reactant | ethyl formate | 220 ml | C(=O)OCC | C3H6O2
catalyst | tetrabutyl orthotitanate | 41.3 g | CCCCO.CCCCO.CCCCO.CCCCO.[Ti]
product | 4-(N-phenylethyl-N-formylamino)-2,2,6,6-tetramethylpiperidine | C1(=CC=CC=C1)CCN(C=O)C1CC(NC(C1)(C)C)(C)C | C18H28N2O
